Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Toxic large substernal multinodular goiter.

 
Major Surgical or Invasive Procedure:
Resection of left substernal goiter and resection of medial 
aspect right lobe.

 
History of Present Illness:
This is a ___ year old woman who lady presented with a 
chronically toxic multinodular goiter that was however,enlarging 
causing tracheal deviation and stenosis.  FNA of a nodule on the 
left side, also was suspicious for papillary
cancer.  Consequently, we arranged to do a total thyroidectomy 
but the possibility of a staged operation had been raised 
preoperatively.

 
Past Medical History:
Toxic multinodular goiter causing tracheal stenosis and 
deviation,Mild mitral regurg, moderate pulm HTN,HLD, DM2, 
Paroxysmal afib on lovenox, DVT L arm ___ now on lovenox, 
pulm embolism in ___, HTN, PAD s/p lower extremity bypass 
graft, COPD, Gout,Prior stroke, possibly with neurogenic bladder 
now s/p suprapubic catheter,ongoing tobacco use as of ___

PSH: Cataracts,Fem-pop BPG,Hysterectomy,Suprapubic urinary 
catheter ___

 
Social History:
___
Family History:
Mother, aunt, and uncle all had CHF, unknown cause; no known hx 
of CAD in her family. Daughter with heart arrhythmia on 
amiodarone  
 
Physical Exam:
General: AA&O, pleasant,no distress
Cardiac: irreg irreg rate and rhythm, normal S1 S2
Pulm:clear, no stridor
Abd:soft, NT/ND
INC:neck soft, incision c/d/I, no erythema/drainage
EXT:warm well perfused, no ___ edema
 
Brief Hospital Course:
___ with massive multinodular goiter with FNA suspicious for 
papillary thyroid cancer. She presented to ___ on ___ and 
underwent left thyroid lobectomy. Initially postoperatively, she 
was hypertensive and received IV Labetalol and responded 
appropriately. She was transferred to the surgical ward 
overnight for observation.
Postoperatively she was able to tolerate regular diet, ambulate, 
and achieve adequate pain control on oral medications. Her 
surgical site remained c/d/I and without evidence of hematoma or 
drainage. Once she met the appropriate criteria she was 
discharged home on POD1 with scheduled follow up with Dr. 
___ postoperative care. She was given instructions 
on wound care as well as symptoms of complications to look out 
for, of which she expressed understanding.
 
Medications on Admission:
- Amlodipine 5' QAM
- Atorvastatin 40' QHS
- Lovenox 80mg SQ QAM
- Lisinopril 30' QHS
- Methimazole 2.5' QAM
- ASA 81'
- Calcium + vitD QD
- Iron 325'
- MVI
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Amlodipine 5 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Lisinopril 30 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
please restart your aspirin 48 hours after surgery on ___. 
6. Enoxaparin Sodium 80 mg SC QD 
Start: Tomorrow - ___, First Dose: First Routine 
Administration Time 
Please restart your Lovenox 48 hours after your surgery. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Toxic multinodular goiter

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the inpatient general surgery unit after 
your  left thyroid lobectomy. You have adequate pain control and 
have tolerated a regular diet and may return home to continue 
your recovery. 
Monitor for signs and symptoms of low Calcium such as numbness 
or tingling around mouth/fingertips or muscle cramps in your 
legs. If you experience any of these signs or symptoms please 
call Dr. ___ for advice or if you have severe 
symptoms go to the emergency room. 
Please note that your Methimazole has been discontinued. You may 
restart your Aspirin and Lovenox on ___ (48 hours after your 
surgery). You may take acetaminophen (Tylenol) as directed, but 
do not exceed 4000 mg in one day. Please get plenty of rest, 
continue to walk several times per day, and drink adequate 
amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own.
Thank you for allowing us to participate in your care.
Your ___ Team

 
Followup Instructions:
___